US07816391B2
Methyl 4-hydrazinylbenzoate hydrochloride (Intermediate#123) (0.712 g, 3.51 mmol) was added in one portion to (Z)—N-(2-adamantyl)-2-(cyclopentanecarbonyl)-3-dimethylamino-prop-2-enamide (Intermediate#67), 1.21 g, 3.51 mmol) in ethanol (30 mL). 5 drops of acetic acid were added and the resulting solution was stirred at 80° C. for 2 hours and then cooled to ambient giving a precipitate. The reaction mixture was filtered and the product recovered, washed with ethanol (10 mL) and water (10 mL) before being dried under vacuum to give methyl 4-[4-(2-adamantylcarbamoyl)-5-cyclopentyl-pyrazol-1-yl]benzoate (0.620 g, 39.4%) as a white solid.

reactant | Methyl 4-hydrazinylbenzoate hydrochloride | 3.51 mmol, 0.712 g | Cl.N(N)C1=CC=C(C(=O)OC)C=C1
reactant | (Z)—N-(2-adamantyl)-2-(cyclopentanecarbonyl)-3-dimethylamino-prop-2-enamide | C12C(C3CC(CC(C1)C3)C2)NC(\C(=C/N(C)C)\C(=O)C2CCCC2)=O | C21H32N2O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | methyl 4-[4-(2-adamantylcarbamoyl)-5-cyclopentyl-pyrazol-1-yl]benzoate | 0.620 g, 39.4% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C2CCCC2)C2=CC=C(C(=O)OC)C=C2 | C27H33N3O3
